US03991065
8-Benzoylthiocarbamoylamino-3-methyl-5,6,7,8-tetrahydroquinoline
A solution of 8-amino-3-methyl-5,6,7,8-tetrahydroquinoline (6. g.) in acetone (48 ml.) was treated with benzoylisothiocyanate (6 g.) and the mixture heated at reflux for 45 minutes. The solvent was removed in vacuo and the residual solid recrystallised from ethanol-ether to give the title compound as colourless needles (7.2 g.) m.p. 168° C. (Found; C,66.5; H, 6.1; N, 13.0 C18H19N3OS requires: C, 66.4; H, 5.9; N, 12.9%).

reactant | 8-amino-3-methyl-5,6,7,8-tetrahydroquinoline | NC1CCCC=2C=C(C=NC12)C | C10H14N2
reactant | benzoylisothiocyanate | 6 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | acetone | 48 ml | CC(=O)C | C3H6O
product | 8-Benzoylthiocarbamoylamino-3-methyl-5,6,7,8-tetrahydroquinoline | 7.2 g, 12.9% | C(C1=CC=CC=C1)(=O)NC(=S)NC1CCCC=2C=C(C=NC12)C | C18H19N3OS
